US08614215B2
Intermediate 79: 5-(Aminosulfonyl)-2-methylpyridine-N-oxide
To a solution of 6-methylpyridine-3-sulfonamide (0.5 g, 3 mmol) in chloroform (40 mL) is added mCPBA (1.5 g; 8.7 mmol) and the reaction mixture is stirred overnight under nitrogen. The solvent is evaporated under reduced pressure. The residue is taken up in ACN and the precipitate is filtered off then dried under vacuum to afford 0.4 g (73%) of the title compound as an off white solid. 1H NMR (DMSO-d6, 400 MHz) δ 8.53 (s, 1H), 7.74 (s, 2H), 7.69-7.64 (m, 1H), 7.59-7.52 (m, 1H), 2.4 (s, 3H).

reactant | 6-methylpyridine-3-sulfonamide | 3 mmol, 0.5 g | CC1=CC=C(C=N1)S(=O)(=O)N | C6H8N2O2S
reactant | mCPBA | 8.7 mmol, 1.5 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-(Aminosulfonyl)-2-methylpyridine-N-oxide | 0.4 g, 73% | NS(=O)(=O)C=1C=CC(=[N+](C1)[O-])C | C6H8N2O3S
